US03995043
15 g. of 7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl hydrazine (obtained as in Preparation 2) is slowly added to 150 ml. of acetic acid with external cooling. A solution of 6 g. of chloroacetyl chloride in 75 ml. of acetic acid is then added during about ten minutes, the solution is stirred at room temperature for about 1.5 hours and 4 g. of sodium acetate added with additional stirring for about 30 minutes, the mixture then being refluxed for about 3.25 hours. This mixture is cooled, poured into ice water and concentrated to a small volume, then diluted with water, neutralized with sodium bicarbonate and extracted with chloroform. The extract is dried over anhydrous magnesium sulfate, concentrated and the residue chromatographed on 1 kg. column of silica gel with 1% methanol -- 99% chloroform. The product obtained from the column is crystallized from ethyl acetate to give pure 8-bromo-1-(chloromethyl)-6-(2-pyridyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl hydrazine | BrC=1C=CC2=C(C(=NCC(=N2)NN)C2=NC=CC=C2)C1 | C14H12BrN5
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-bromo-1-(chloromethyl)-6-(2-pyridyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=NC=CC=C3)C1 | C16H11BrClN5
